US07186715B2
Step 4: 4-[2-(Azetidin-3-yloxy)-phenyl]-piperazine-1-carboxylic acid tert-butyl ester
4-[2-(1-Benzhydryl-azetidin-3-yloxy)-phenyl]-piperazine-1-carboxylic acid tert-butyl ester (750 mg, 1.5 mmol) and ammonium formate (1.8 g, 30 mmol) were dissolved into methanol (50 mL) at r.t. The solution was added slowly to 10% palladium on carbon (750 mg) in methanol (20 mL) under nitrogen atmosphere. The mixture was stirred for about 48 hours and filtered through a bed of celite. The solvent was removed under reduced pressure to afford the title compound as a colorless oil (380 mg, 60%).

reactant | 4-[2-(1-Benzhydryl-azetidin-3-yloxy)-phenyl]-piperazine-1-carboxylic acid tert-butyl ester | 1.5 mmol, 750 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC=C1)OC1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C31H37N3O3
reactant | ammonium formate | 30 mmol, 1.8 g | C(=O)[O-].[NH4+]
catalyst | palladium on carbon | 750 mg | [Pd] | Pd
solvent | methanol | 20 mL | CO | CH4O
solvent | methanol | 50 mL | CO | CH4O
product | 4-[2-(Azetidin-3-yloxy)-phenyl]-piperazine-1-carboxylic acid tert-butyl ester | 380 mg, 60% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC=C1)OC1CNC1 | C18H27N3O3
